US08633200B2
Methyl 2-(3-bromo-7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate
To a 2-5 ml microwave tube was added methyl 2-(3-bromo-7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate (290 mg, 0.621 mmol), tetrakis(triphenylphosphine)palladium(0) (71.8 mg, 0.062 mmol), 2-(8-fluoro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane (200 mg, 0.683 mmol), DMF (2 mL) followed by 2M K2CO3 solution (200 μl). The reaction mixture was heated in a microwave reactor at 110° C. for 40 min. The reaction mixture was filtered and the filtrate was purified by silica gel chromatography to afford (35 mg, 9.4%) of the title compound. 1H NMR (500 MHz, CHLOROFORM-d) δ 7.90 (dd, J=8.1, 1.4 Hz, 2H), 7.53-7.32 (m, 3H), 6.86 (d, J=10.7 Hz, 1H), 5.02 (s, 1H), 4.48-4.18 (m, 2H), 3.64 (s, 3H), 2.82 (s, 3H), 2.75 (t, J=6.4 Hz, 2H), 2.20-2.12 (m, 2H), 1.84 (s, 3H), 1.16 (s, 9H).

reactant | methyl 2-(3-bromo-7-chloro-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 0.621 mmol, 290 mg | BrC=1C(=NN2C1N=C(C(=C2Cl)C(C(=O)OC)OC(C)(C)C)C)C2=CC=CC=C2 | C20H21BrClN3O3
reactant | 2-(8-fluoro-5-methylchroman-6-yl)-4,4,5,5-tetramethyl-1,3,2-dioxaborolane | 0.683 mmol, 200 mg | FC=1C=C(C(=C2CCCOC12)C)B1OC(C(O1)(C)C)(C)C | C16H22BFO3
reactant | K2CO3 | 2M, 200 μl | C(=O)([O-])[O-].[K+].[K+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.062 mmol, 71.8 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | Methyl 2-(3-bromo-7-(8-fluoro-5-methylchroman-6-yl)-5-methyl-2-phenylpyrazolo[1,5-a]pyrimidin-6-yl)-2-(tert-butoxy)acetate | 35 mg, 9.4% | BrC=1C(=NN2C1N=C(C(=C2C=2C(=C1CCCOC1=C(C2)F)C)C(C(=O)OC)OC(C)(C)C)C)C2=CC=CC=C2 | C30H31BrFN3O4
